US04472433
(1) Preparation of ethyl 2-(2-acetamido-3-phenoxyphenyl)acetate
A solution of acetyl chloride (1.38 g.) in methylene chloride (10 ml.) was added to a mixture of ethyl 2-(2-amino-3-phenoxyphenyl)acetate (4.3 g.), pyridine (1.9 g.) and dried methylene chloride (50 ml.) over 10 minutes at 5° C. with stirring and stirred for 30 minutes at the same temperature. The reaction mixture was concentrated under reduced pressure and to the residue was added 10% hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was washed with water, dried over magnesium sulfate and then evaporated. The residue was crystallized with a mixture of benzene and n-hexane to give the captioned compound (3.65 g.). mp 106° to 107° C.

reactant | acetyl chloride | 1.38 g | C(C)(=O)Cl | C2H3ClO
reactant | ethyl 2-(2-amino-3-phenoxyphenyl)acetate | 4.3 g | NC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)OCC | C16H17NO3
reactant | pyridine | 1.9 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-acetamido-3-phenoxyphenyl)acetate | C(C)(=O)NC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)OCC | C18H19NO4
